US04258185
To a solution of 5.4 g of 6-(5-methyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-1-methyl-1,2,3,4-tetrahydroquinolin-2-one in 50 ml of dimethylformamide was added 1.1 g of 50% sodium hydride. After stirring for about 30 minutes, 2.4 g of ethyl bromide was added and the mixture was stirred at about 40° C. for one hour. The reaction mixture was poured into 200 ml of water and extracted with 100 ml of ethyl acetate. The extract was dried over magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethanol to give 3.7 g of 6-(2-ethyl-5-methyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-1-methyl-1,2,3,4-tetrahydroquinolin-2-one as colorless crystals, melting at 170°-172° C.

reactant | 6-(5-methyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-1-methyl-1,2,3,4-tetrahydroquinolin-2-one | 5.4 g | CC1CC(NN=C1C=1C=C2CCC(N(C2=CC1)C)=O)=O | C15H17N3O2
reactant | sodium hydride | 1.1 g | [H-].[Na+]
reactant | ethyl bromide | 2.4 g | C(C)Br | C2H5Br
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-(2-ethyl-5-methyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-1-methyl-1,2,3,4-tetrahydroquinolin-2-one | 3.7 g | C(C)N1N=C(C(CC1=O)C)C=1C=C2CCC(N(C2=CC1)C)=O | C17H21N3O2
